US05145601
Powdered, activated molecular sieves (4 Å, 1.80 g) were suspended in 205 ml of CH2Cl2 and the suspension was cooled to about -30° C. (+)-Diisopropyltartrate (0.76 ml, 0.06 eq.) and titanium (IV) isopropoxide (0.88 ml, 0.05 eq.) was added to the cooled suspension via syringe. A 3.8 M CH2Cl2 solution of t-butylhydroperoxide (4.4 ml, 0.28 eq.) was then added dropwise to the suspension over 5 min. while the temperature of the suspension was maintained between -20° C. and -30° C. After 30 min., a CH2Cl2 solution of trans-3-hepten-2-ol was added dropwise to the reaction mixture The reaction mixture was then held in the freezer (at -20° C.) for about 23 hours, after which it was warmed to 0° C. and poured onto a precooled (0° C.) solution of ferrous sulfate heptahydrate (19 g) and tartaric acid (6 g) in 6 ml of water. The resulting solution was stirred at room temperature for 10 min. The organic and aqueous phases were separated and the aqueous phase was extracted (2×38 ml) with ether. The organic layer and extracts were combined and vigorously stirred (0° C., 1 hour) after addition of 6 ml of a 30% (w/v) solution of NaOH in brine. After addition of 30 ml of water, the phases were separated and the aqueous phase was extracted (2×30 ml) with ether. The combined organic phases were dried over sodium sulfate. Evaporation of solvent, followed by flash chromatography of the residue (30% by volume ethyl acetate in hexane) gave a colorless liquid. The liquid was distilled to give 1(S)-methyl-2(S),3(S)-epoxyhexanol.

reactant | (+)-Diisopropyltartrate | 0.76 ml, 0.06 eq. | C(C)(C)C(C(C(=O)[O-])(O)C(C)C)(O)C(=O)[O-]
reactant | t-butylhydroperoxide | 4.4 ml, 0.28 eq. | C(C)(C)(C)OO | C4H10O2
reactant | trans-3-hepten-2-ol | CC(\C=C\CCC)O | C7H14O
reactant | tartaric acid | 6 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | CH2Cl2 | 205 ml | C(Cl)Cl | CH2Cl2
solvent | water | 6 ml | O | H2O
catalyst | titanium (IV) isopropoxide | 0.88 ml, 0.05 eq. | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | CH2Cl2 | 3.8 M | C(Cl)Cl | CH2Cl2
product | 1(S)-methyl-2(S),3(S)-epoxyhexanol | C[C@@H]([C@H]1[C@H](CCC)O1)O | C7H14O2
